US08008295B2
Step B: Ethyl 5-iodo-1H-indole-2-carboxylate
Ethyl 3,5-diiodo-1H-indole-2-carboxylate (12.1 g, 26.4 mmol) was suspended in 250 mL of absolute ethanol, to which concentrated aqueous hydrogen chloride (22.0 mL, 264 mmol) was added. Zinc dust (17.3 g, 264 mmol) was added portionwise over 30 minutes. After stirring for 45 minutes, two additional portions of zinc were added slowly (5.2 and 4.4 g, 146 mmol). After stirring for 30 minutes, the mixture was poured into water and extracted four times with ethyl acetate. The combined organic extracts were washed once with aqueous saturated NaHCO3 and once with aqueous saturated NaCl. The organic extract was dried with Na2SO4, filtered and concentrated in vacuo. The residue was crystallized three times from hexanes and ethyl acetate, providing the title compound. The mother liquor was columned by flash chromatography (0 to 8% ethyl acetate in hexanes) to provide an additional amount of the title compound. HRMS (ES) exact mass calculated for C11H10INO2 (M+Na+): 377.9648. Found 377.9649.

reactant | Ethyl 3,5-diiodo-1H-indole-2-carboxylate | 26.4 mmol, 12.1 g | IC1=C(NC2=CC=C(C=C12)I)C(=O)OCC | C11H9I2NO2
reactant | hydrogen chloride | 264 mmol, 22.0 mL | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Zinc | 264 mmol, 17.3 g | [Zn] | Zn
product | Ethyl 5-iodo-1H-indole-2-carboxylate | IC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10INO2
